US09233968B1
1-[2-fluoro-5-(trifluoromethyl)phenyl]-3-[4-({2-[({[2-fluoro-5-(trifluoromethyl)phenyl]amino}carbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}ethynyl)phenyl]urea
The compound of Example 10 was made by preparing 6-[(4-aminophenyl)ethynyl]imidazo[1,2-b]pyridazin-2-amine as in Example 20, followed by a procedure similar to Example 3 using 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene as the isocyanate (see also Schemes 1, 2, and 9).

reactant | 6-[(4-aminophenyl)ethynyl]imidazo[1,2-b]pyridazin-2-amine | NC1=CC=C(C=C1)C#CC=1C=CC=2N(N1)C=C(N2)N | C14H11N5
reactant | 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
reactant | isocyanate | [N-]=C=O
product | 1-[2-fluoro-5-(trifluoromethyl)phenyl]-3-[4-({2-[({[2-fluoro-5-(trifluoromethyl)phenyl]amino}carbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}ethynyl)phenyl]urea | FC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=CC=C(C=C1)C#CC=1C=CC=2N(N1)C=C(N2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C30H17F8N7O2
